US06294568B1
0.44g (11.0 mol) of 60% sodium hydride was added to 27 ml of N,N-dimethylformamide solution containing 2.72 g (10.0 mmol) of 1-(4-methoxyphenyl)-2-(4-methylthiophenyl)ethanone, and stirred at the room temperature for 30 minutes, then 1.51 g (11.0 mol) of bromoacetone was added and further stirred at room temperature for 1 hour. 400 ml of ethyl acetate was added thereto and the mixture was washed three times with 200 ml of saturated saline. The organic layer was dried over anhydrous magnesium sulfate, then concentrated under reduced pressure followed by subjected to chromatography on silica gel (hexane:ethyl acetate=4:1) to obtain 2.27 g of 2-(4-methoxyphenyl)-1-(4-methylthiophenyl)butane-1,3-dion as colorless oil (yield: 69%).

reactant | sodium hydride | 11.0 mol, 0.44g | [H-].[Na+]
reactant | N,N-dimethylformamide | 27 ml | CN(C=O)C | C3H7NO
reactant | 1-(4-methoxyphenyl)-2-(4-methylthiophenyl)ethanone | 10.0 mmol, 2.72 g | COC1=CC=C(C=C1)C(CC1=CC=C(C=C1)SC)=O | C16H16O2S
reactant | bromoacetone | 11.0 mol, 1.51 g | BrCC(C)=O | C3H5BrO
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
product | 2-(4-methoxyphenyl)-1-(4-methylthiophenyl)butane-1,3-dion | 2.27 g, yield: 69% | COC1=CC=C(C=C1)C(C(=O)C1=CC=C(C=C1)SC)C(C)=O | C18H18O3S
